### PR TITLE
Add files for Hutton's Razor

### LINKED ISSUE #82: Case Study: Hutton's Razor
- [x] Define datatypes and functions in Haskell
- [x] Define properties
- [x] Translate to Coq
- [x] Prove properties

### LINKED ISSUE #164: Adapt Coq examples to the new usability changes
## Description

Some changes have been made or are going to be made to the compiler regarding Coq usability.
This includes e.g. automatically generated induction schemes #154 and the switch from smart constructor functions to smart constructor notations #153.
The examples should be adapted appropriately.

### PR DESCRIPTION
**Pull request by MarvinLira**
### Issue

Closes #82
Closes #164

### Description of the Change

This case study is based on [this](https://arxiv.org/pdf/1806.03541.pdf) and [this](https://nottingham-repository.worktribe.com/preview/1021572/exceptions.pdf) paper.

This pull request adds:
- An haskell file containing Hutton's Razor and some properties that have to be proven.
- A coq files containing the proofs for the properties mentioned above.
- Two coq files containing alternative proofs for some lemmas of the main proof file under different assumptions.
- Reworked versions of the two coq files above using simplification lemmas and hint databases.
- Additional coq files with some definitions, lemmas and hint databases that are used in the proofs.

### Verification Process

The proofs are directly verified using coq.

### Additional Information

This branch contains changes from the `main` branch that are not yet in the `dev-case-studies` branch therefore many files are marked as changed which are not actually part of this PR.
I suggest to view the diff versus the `main` branch when reviewing this PR.
The following list contains all the files that are contained in this diff against the `main`.
- example/_CoqProject
- example/CaseStudyHuttonsRazor/_CoqProject
- example/CaseStudyHuttonsRazor/Extra/FreeDB.v
- example/CaseStudyHuttonsRazor/Extra/Pureness.v
- example/CaseStudyHuttonsRazor/Extra/Tactic.v
- example/CaseStudyHuttonsRazor/Razor.hs
- example/CaseStudyHuttonsRazor/RazorProofs.v
- example/CaseStudyHuttonsRazor/RazorProofsMaybe.v
- example/CaseStudyHuttonsRazor/RazorProofsMaybePretty.v
- example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v
- example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v

### CODE REVIEW

File: example/Proofs/RazorProofs.v [hunk 1]
```diff
@@ -0,0 +1,153 @@
...
+Qed.
+
+Lemma bind_pure : forall (Shape : Type) (Pos : Shape -> Type) (A : Type) (fx : Free Shape Pos A),
+  fx >>= pure = fx.
+Proof.
+  intros Shape Pos A fx.
+  induction fx as [ x | s pf IH ] using Free_Ind.
+  - reflexivity.
+  - simpl. apply f_equal; extensionality x; apply IH.
+Qed.
```
Comment (ichistmeinname) [inline example/Proofs/RazorProofs.v]: You haven't used these lemmas yet, but I think when working with `Free` it's preferable not to reuse the monadic properties. In a pen-and-paper-proof, when we usually only consider the total setting, such reasoning steps are not part of the proof. In the best case we want to the user to have as less overhead in contrast to the total setting as possible.

File: example/Proofs/RazorProofs.v [hunk 2]
```diff
@@ -0,0 +1,372 @@
...
+  (* If [UndefinedIsImpure] holds and we know that [exec] applied to some [Code]
+     [fcode1] returns a pure value, we know that [exec] applied to [fcode1]
+     appended with some [Code] [fcode2] has the same result as applying [exec] to
+     [fcode1] first and applying [exec] to [fcode2] second. *)
+  Lemma exec_append :
+    UndefinedIsImpure Partial ->
+    forall (fcode1 fcode2 : Free Shape Pos (Code Shape Pos))
+           (fstack        : Free Shape Pos (Stack Shape Pos)),
+    (exists (stack' : Stack Shape Pos), exec Shape Pos Partial fcode1 fstack = pure stack') ->
+        exec Shape Pos Partial (append Shape Pos fcode1 fcode2) fstack
```
Comment (ichistmeinname) [inline example/Proofs/RazorProofs.v]: Hutton himself states the following invariant for this theorem.

>  provided that we assume that exec is strict in its stack argument (exec ⊥ ops = ⊥.)

https://nottingham-repository.worktribe.com/preview/1021572/exceptions.pdf (directly following Lemma 1)

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v [hunk 3]
```diff
@@ -0,0 +1,272 @@
...
+    reflexivity.
+  Qed.
+
+  Lemma exec_strict_on_stack_arg_cons :
+    forall (op : Op Shape Pos)
+           (fcode : Free Shape Pos (Code Shape Pos))
+           (sStack  : Shape)
+           (pfStack : Pos sStack -> Free Shape Pos (Stack Shape Pos)),
+        exec Shape Pos Partial (Cons Shape Pos (pure op) fcode) (impure sStack pfStack)
+        = impure sStack (fun p => exec Shape Pos Partial (Cons Shape Pos (pure op) fcode) (pfStack p)).
```
Comment (ichistmeinname) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:72]: The `impure`-calls are very specific -- can we generalise them to use `undefined` instead?

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v [hunk 4]
```diff
@@ -0,0 +1,272 @@
...
+    forall (A B C : Type)
+           (fx : Free Shape Pos A) 
+           (f : A -> Free Shape Pos B)
+           (g : B -> Free Shape Pos C),
+        (fx >>= f) >>= g
+        = fx >>= fun fy => (f fy >>= g).
+  Proof.
+    intros A B C fx f g.
+    inductFree fx as [ | sX pfX IHpfX ]; reflexivity.
+  Qed.
```
Comment (ichistmeinname) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:98]: I already mentioned last time that I don't think it's a good abstraction to let the user see or use lemmas like `bind_pure` and `bind_assoc` as they are meta-lemmas.
I'd suggest that yo do not need to change your proofs now, as we want to see if the simplification-lemmas help to get rid of `>>=` showing up all the time.

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v (hunk 3 above)
Comment (MarvinLira) [reply example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:72]: If the properties `UndefinedIsImpure` and `UndefinedHasNoPositions` hold, we could specialize these lemmata to use `undefined` on both sides of the equation. But this would of course make these lemmata not applicable if we have an impure stack that doesn't represent an `undefined` value.
Therefore we would need to require that `undefined` is the only impure value, which would result in the `Maybe` monad as we see in `RazorProofsMaybe`, or we would need the stack in the `exec_append` lemma to contain no impure value other than `undefined`.

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v (hunk 4 above)
Comment (MarvinLira) [reply example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:98]: I think the lemma `exec_append` is formulated too general. I didn't manage to solve the complex impure cases without those lemmata yet. The lemma `bind_pure` could at least be added to an hint database like the `prettyDB`, that was added with the latest commits, and this way be hidden behind a `pretty` call.
I will try to find smart simplification lemmata for those impure cases.

Comment (MarvinLira) [reply example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:98]: I have finished those impure simplification-lemmas and reworked this proof in `RazorProofsPureCodesPretty`. In this new proof I didn't need those bind-lemmas and neither that `match_stack` lemma.

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v (hunk 3 above)
Comment (MarvinLira) [reply example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v:72]: In the reworked proof (see conversation below) this lemma here is one example of the new impure simplification-lemmas for the hint-database. I replaced this lemma here with the specialized `undefined` version.

File: example/CaseStudyHuttonsRazor/Extra/Pureness.v [hunk 5]
```diff
@@ -0,0 +1,157 @@
...
+       RecPureCode fcode -> RecPureCode (Cons Shape Pos (pure op) fcode).
+ 
+Inductive RecPureStack {Shape : Type} {Pos : Shape -> Type} : Free Shape Pos (Stack Shape Pos) -> Prop :=
+  | recPureStack_nil : RecPureStack (Nil Shape Pos)
+  | recPureStack_cons : forall (fv : Free Shape Pos (Integer Shape Pos))
+                              (fstack : Free Shape Pos (Stack Shape Pos)),
+      RecPureStack fstack -> RecPureStack (Cons Shape Pos fv fstack).
+
+(* If the goal is to prove one of those pureness properties of those above,
+   this tactic tries to do this. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/Extra/Pureness.v]: I think this comment sounds a little awkward.

```suggestion
(* If the goal is to prove one the above pureness properties, this tactic tries to do that. *)
```

File: example/CaseStudyHuttonsRazor/Extra/Pureness.v [hunk 6]
```diff
@@ -0,0 +1,157 @@
...
+        dependent destruction H; eliminate_pureness_property_impure
+  | [ H : RecPureStack (pure (cons ?fv ?fxs)) |- _ ] =>
+        dependent destruction H; eliminate_pureness_property_impure
+  end.
+
+Section Lemmas.
+  Variable Shape : Type.
+  Variable Pos : Shape -> Type.
+
+  (* If we apply [append] on to pieces of recursively pure code the result is recursively pure code. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/Extra/Pureness.v]:
```suggestion
  (* If we apply [append] on two pieces of recursively pure code the result is recursively pure code. *)
```

File: example/CaseStudyHuttonsRazor/Extra/Pureness.v [hunk 7]
```diff
@@ -0,0 +1,157 @@
...
+    RecPureCode fcode2 ->
+        RecPureCode (append Shape Pos fcode1 fcode2).
+  Proof.
+    intros fcode1 fcode2 HPure1 HPure2.
+    (* The first piece of code is pure. *)
+    destruct fcode1 as [ code1 | ]. 2: dependent destruction HPure1.
+    (* Do an induction over the first piece of code. *)
+    induction code1 as [ | fop fcode1' ] using List_Ind.
+    - simpl. apply HPure2.
+    - (* The first operation in a non empty [code1] is pure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/Extra/Pureness.v]:
```suggestion
    - (* The first operation in a non-empty [code1] is pure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofs.v [hunk 8]
```diff
@@ -0,0 +1,286 @@
+(* This file contains some naive proofs for the properties of the haskell file. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofs.v]:
```suggestion
(* This file contains some naive proofs for the properties of the Haskell file. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofs.v [hunk 9]
```diff
@@ -0,0 +1,286 @@
...
+From Base Require Import Free Free.Instance.Maybe Free.Instance.Error Prelude Test.QuickCheck.
+From Razor.Extra Require Import Tactic Pureness.
+From Generated Require Import Razor.
+From Proofs Require Import AppendAssocProofs.
+Import AppendAssoc.
+
+Require Import Coq.Logic.FunctionalExtensionality.
+Require Import Coq.Program.Equality.
+
+(* This property states, that the given Partial instance represents every [undefined] as an impure value. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofs.v]:
```suggestion
(* This property states that the given Partial instance represents every [undefined] as an impure value. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofs.v [hunk 10]
```diff
@@ -0,0 +1,286 @@
...
+    forall (Shape' : Type) (Pos' : Shape' -> Type)
+           `{Inj : Injectable (Error.Shape string) Error.Pos Shape' Pos'},
+  @UndefinedIsImpure Shape' Pos' (@Error.Partial Shape' Pos' Inj).
+Proof.
+  intros Shape' Pos' Inj A.
+  simpl. unfold ThrowError.
+  eauto.
+Qed.
+
+(* This is a tactic, which discriminates assumptions where [impure] is equal to some [pure] value. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofs.v]:
```suggestion
(* This is a tactic which discriminates assumptions where [impure] is equal to some [pure] value. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofs.v [hunk 11]
```diff
@@ -0,0 +1,286 @@
...
+        intro fcode. simpl comp0.
+        do 2 (rewrite <- append_assocs).
+        simpl append.
+        (* We use [replace] here to make this main proof simple and produce additional simple subgoals. *)
+        replace (append Shape Pos _ (Cons Shape Pos (ADD Shape Pos) fcode))
+          with (compApp Shape Pos fy (Cons Shape Pos (ADD Shape Pos) fcode)).
+        replace (append Shape Pos _ (compApp Shape Pos fy (Cons Shape Pos (ADD Shape Pos) fcode)))
+          with (compApp Shape Pos fx (compApp Shape Pos fy (Cons Shape Pos (ADD Shape Pos) fcode))).
+        reflexivity.
+        (* Prove subgoals, that were introduced by the [replace] tactic, by induction. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofs.v]:
```suggestion
        (* Prove subgoals that were introduced by the [replace] tactic by induction. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 12]
```diff
@@ -0,0 +1,155 @@
+(* This file contains a naive proofs for one of the properties of the haskell file.
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
(* This file contains a naive proofs for one of the properties of the Haskell file.
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 13]
```diff
@@ -0,0 +1,155 @@
...
+Require Import Coq.Program.Equality.
+
+Section Proofs_Maybe.
+
+  (* In the following proofs we use the [Maybe] monad. *)
+  Definition Shape   := Maybe.Shape.
+  Definition Pos     := Maybe.Pos.
+  Definition Partial := Maybe.Partial Shape Pos.
+
+  (* In the [Maybe] monad exists only one impure value. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
  (* In the [Maybe] monad there exists only one impure value. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 14]
```diff
@@ -0,0 +1,155 @@
...
+    - (* fcode1 = pure code1 *)
+      destruct code1 as [ | [ [ fn | ] | sOp pfOp ] fcode1' IHfcode1'] using List_Ind.
+      + (* fcode1 = pure [] *)
+        (* This case is trivial. *)
+        intro fstack.
+        destruct fstack as [ [ | fv fstack1 ] | sStack pfStack ]; try reflexivity.
+        simpl. f_equal. do 2 rewrite impure_Nothing. reflexivity.
+      + (* fcode1 = pure (pure (PUSH fn) : fcode1') *)
+        intro fstack.
+        (* Destruct the remaining code [fcode1'] to see, wether it is pure or impure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
        (* Destruct the remaining code [fcode1'] to see wether it is pure or impure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 15]
```diff
@@ -0,0 +1,155 @@
...
+          -- autoIH. apply IH.
+          -- autoIH. apply IH.
+          -- simpl. do 2 rewrite impure_Nothing. symmetry. apply exec_strict_on_stack_arg.
+        * (* fcode1 = pure (pure (PUSH fn) : impure sCode1' pfCode1' *)
+          (* In this case the result is undefined on both sides. *)
+          destruct fstack as [ [ | fv fstack1 ] | sStack pfStack ];
+            simpl; do 2 rewrite impure_Nothing; symmetry; apply exec_strict_on_stack_arg.
+      + (* fcode1 = pure (pure ADD : fcode1') *)
+        intro fstack.
+        (* Destruct the remaining code [fcode1'] to see, wether it is pure or impure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
        (* Destruct the remaining code [fcode1'] to see wether it is pure or impure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 16]
```diff
@@ -0,0 +1,155 @@
...
+        destruct fcode1' as [ code1' | sCode1' pfCode1' ].
+        * (* fcode1 = pure (pure ADD : pure code1') *)
+          (* As the addition reads its two inputs from the stack [fstack], we need to destruct it.
+             All cases, where the stack does not contain at least two values, produce an undefined. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
             All cases where the stack does not contain at least two values produce an undefined. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 17]
```diff
@@ -0,0 +1,155 @@
...
+            simpl; try do 2 rewrite impure_Nothing; symmetry; apply exec_strict_on_stack_arg.
+  - (* fcode1 = impure sCode1 pfCode1 *)
+    (* In this case the result is undefined on both sides. *)
+    intro fstack.
+    simpl; try do 2 rewrite impure_Nothing; symmetry; apply exec_strict_on_stack_arg.
+  Qed.
+
+  (* To prove the correctness of the compiler [comp] as stated in the QuickCheck property,
+     we have to generalize it first by adding an additional recursively pure stack and we
+     need the precondition, that the given expression is recursively pure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
     need the precondition that the given expression is recursively pure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybe.v [hunk 18]
```diff
@@ -0,0 +1,155 @@
...
+      1,2: rewrite exec_append.
+      1,2: rewrite (IHx _ HPureS).
+      1,2: rewrite exec_append.
+      1,2: rewrite (IHy _ (recPureStack_cons _ _ HPureS)).
+      1,2: reflexivity.
+  Qed.
+
+  (* The theorem derived by the correctness QuickCheck property for comp_correct
+     can now be proven with the more general lemma above and under the that the
+     given expression is recursively pure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybe.v]:
```suggestion
  (* The theorem derived by the correctness QuickCheck property for comp_correct
     can now be proven with the more general lemma above and under the assumption that the
     given expression is recursively pure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybePretty.v [hunk 19]
```diff
@@ -0,0 +1,219 @@
...
+          -- autoIH; apply IH.
+          -- autodef.
+             rewrite exec_strict_on_stack_arg...
+        * (* If the stack is [Nothing], the result is [Nothing] as well. *)
+          autodef.
+          rewrite exec_strict_on_stack_arg...
+      + (* fcode1 = Cons ADD fcode1' *)
+        intro fstack.
+        rewrite def_append_Cons...
+        (* Check wether there are enough values in the stack for addition. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybePretty.v]:
```suggestion
        (* Check whether there are enough values in the stack for addition. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsMaybePretty.v [hunk 20]
```diff
@@ -0,0 +1,219 @@
...
+      rewrite IHx; try prove_pureness_property...
+      rewrite IHy; try prove_pureness_property.
+      rewrite def_exec_ADD...
+      rewrite def_exec_Nil...
+      reflexivity.
+  Qed. 
+
+  (* The theorem derived by the correctness QuickCheck property for comp_correct
+     can now be proven with the more general lemma above and under the that the
+     given expression is recursively pure. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsMaybePretty.v]:
```suggestion
  (* The theorem derived by the correctness QuickCheck property for comp_correct
     can now be proven with the more general lemma above and under the assumption that the
     given expression is recursively pure. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v [hunk 21]
```diff
@@ -0,0 +1,319 @@
...
+From Base Require Import Free Free.Instance.Maybe Free.Instance.Error Prelude Test.QuickCheck.
+From Razor.Extra Require Import Tactic Pureness.
+From Generated Require Import Razor.
+From Proofs Require Import AppendAssocProofs.
+Import AppendAssoc.
+
+Require Import Coq.Logic.FunctionalExtensionality.
+Require Import Coq.Program.Equality.
+
+(* This property states, that the given Partial instance represents every [undefined] as an impure value. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v]:
```suggestion
(* This property states that the given Partial instance represents every [undefined] as an impure value. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v [hunk 22]
```diff
@@ -0,0 +1,319 @@
...
+
+Example undefinedIsImpureError : UndefinedIsImpure (Error.Partial (Error.Shape string) (Error.Pos)).
+Proof.
+  intro A.
+  simpl. unfold ThrowError. exists "undefined"%string.
+  exists (fun p : Error.Pos "undefined"%string => match p return (Free string Error.Pos A) with end).
+  reflexivity.
+Qed.
+
+(* This property states, that the given Partial instance has no positions in an impure [undefined]. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodes.v]:
```suggestion
(* This property states that the given Partial instance has no positions in an impure [undefined]. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v [hunk 23]
```diff
@@ -0,0 +1,162 @@
...
+From Base Require Import Free Free.Instance.Maybe Free.Instance.Error Prelude Test.QuickCheck.
+From Generated Require Import Razor.
+From Razor.Extra Require Import FreeDB Tactic Pureness.
+From Proofs Require Import AppendAssocProofs.
+Import AppendAssoc.
+
+Require Import Coq.Logic.FunctionalExtensionality.
+Require Import Coq.Program.Equality.
+
+(* This property states, that the given Partial instance represents every [undefined] as an impure value. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v]:
```suggestion
(* This property states that the given Partial instance represents every [undefined] as an impure value. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v [hunk 24]
```diff
@@ -0,0 +1,162 @@
...
+
+Example undefinedIsImpureError : UndefinedIsImpure (Error.Partial (Error.Shape string) Error.Pos).
+Proof.
+  intro A.
+  simpl. unfold ThrowError. exists "undefined"%string.
+  exists (fun p : Error.Pos "undefined"%string => match p return (Free string Error.Pos A) with end).
+  reflexivity.
+Qed.
+
+(* This property states, that the given Partial instance has no positions in an impure [undefined]. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v]:
```suggestion
(* This property states that the given Partial instance has no positions in an impure [undefined]. *)
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v [hunk 25]
```diff
@@ -0,0 +1,162 @@
...
+    autodef.
+    f_equal.
+    extensionality p.
+    specialize (HUndefined2 (Stack Shape Pos) s pf HUndefined1 p).
+    destruct HUndefined2.
+  Qed.
+
+  (* If [UndefinedIsImpure] and [UndefinedHasNoPositions] hold and we are given
+     two recursively pure pieces of code and a stack, we know that it doesn't
+     matter wether we concatenate those pieces of code and run them on the
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v]:
```suggestion
     matter whether we concatenate those pieces of code and run them on the
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v [hunk 26]
```diff
@@ -0,0 +1,162 @@
...
+    forall (fcode1 : Free Shape Pos (Code Shape Pos)),
+    RecPureCode fcode1 ->
+    forall (fcode2 : Free Shape Pos (Code Shape Pos)),
+    RecPureCode fcode2 ->
+    forall (fstack : Free Shape Pos (Stack Shape Pos)),
+        exec Part (append fcode1 fcode2) fstack
+        = exec Part fcode2 (exec Part fcode1 fstack).
+  Proof with pretty; unfold Code; unfold Stack; try reflexivity.
+    intros HUndefined1 HUndefined2 fcode1 HPure1 fcode2 HPure2.
+    (* As we now that both pieces of code are recursively pure we, we can
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v]:
```suggestion
    (* As we now that both pieces of code are recursively pure, we can
```

File: example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v [hunk 27]
```diff
@@ -0,0 +1,162 @@
...
+      intro fstack.
+      autodef.
+      f_equal.
+      induction fstack as [ stack | sStack pfStack IHpfStack ] using Free_Ind; autodef; autoIH.
+    - (* code1 = (PUSH fn : fcode1') *)
+      (* This case is also easy. *)
+      intro fstack.
+      destruct fcode1' as [ code1' | ]; try eliminate_pureness_property_impure.
+      simplify IHfcode1' as IH.
+      (* We can proof the goal per induction over the stack. *)
```
Comment (MajaRet) [inline example/CaseStudyHuttonsRazor/RazorProofsPureCodesPretty.v]:
```suggestion
      (* We can prove the goal per induction over the stack. *)
```

**Review by MajaRet — CHANGES_REQUESTED** [review]

**Review by MajaRet — APPROVED** [review]
